US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline (150 mg, 0.42 mmol), (prepared as described for the starting material in Example 152), potassium carbonate (90 mg, 0.63 mmol) and 7-hydroxy-4-methylquinoline (71 mg, 0.46 mmol), (Chem. Berich. 1967, 100, 2077), in DMF (5.0 ml) was stirred at 100° C. for 2 hours and allowed to cool to ambient temperature. The DMF solvent was removed by evaporation and the residue was taken up in 2N aqueous sodium hydroxide solution. The precipitate was filtered off, dried, taken up in dichloromethane and then filtered through phase separating paper. The solution was then evaporated to dryness. The resulting solid was recrystallised from acetonitrile, filtered and washed with diethyl ether to give 6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)-4(4-methylquinolin-7-yloxy)quinazoline (84 mg, 42%).

reactant | 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline | 0.42 mmol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(S(=O)(=O)C)C | C14H18ClN3O4S
reactant | potassium carbonate | 0.63 mmol, 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxy-4-methylquinoline | 0.46 mmol, 71 mg | OC1=CC=C2C(=CC=NC2=C1)C | C10H9NO
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)-4(4-methylquinolin-7-yloxy)quinazoline | 84 mg, 42% | COC=1C=C2C(=NC=NC2=CC1OCCCN(S(=O)(=O)C)C)OC1=CC=C2C(=CC=NC2=C1)C | C24H26N4O5S
